US05011849
4.8 g (20.58 mmol) of ethyl 5-phenyl-4-thiazolecarboxylate and 4.0 g (25.0 mmol) of t-butyl (2-aminoethyl)carbamate were heated under reduced pressure for 21 hours at a bath temperature of 100°, whereby the ethanol formed was distilled off continuously. Subsequently the mixture was cooled, dissolved in 50 ml of methylene chloride and chromatographed on 150 g of silica gel. Elution was first carried out with methylene chloride, then with a 9:1, 8:2 and finally 7:3 mixture of methylene chloride and ethyl acetate. The fractions which were pure according to the thin-layer chromatogram were combined and recrystallized from ethyl acetate/hexane. In this manner there were obtained 4.3 g (60.1%) of t-butyl [2-(5-phenyl-4-thiazolecarboxamido)ethyl]carbamate as white crystals, melting point 139-140°.

reactant | ethyl 5-phenyl-4-thiazolecarboxylate | 20.58 mmol, 4.8 g | C1(=CC=CC=C1)C1=C(N=CS1)C(=O)OCC | C12H11NO2S
reactant | t-butyl (2-aminoethyl)carbamate | 25.0 mmol, 4.0 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
solvent | ethanol | C(C)O | C2H6O
product | t-butyl [2-(5-phenyl-4-thiazolecarboxamido)ethyl]carbamate | 4.3 g, 60.1% | C1(=CC=CC=C1)C1=C(N=CS1)C(=O)NCCNC(OC(C)(C)C)=O | C17H21N3O3S
